US07244725B2
A.17. (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(6-ethyl-1-methyl-1,2,3,4-tetrahydroquinolin-4-yl)amino]butan-2-ol
To a solution of tert-butyl (1S,2R)-1-(3,5-difluorobenzyl)-3-[(6-ethyl-1-methyl-1,2,3,4-tetrahydroquinolin-4-yl)amino]-2-hydroxypropylcarbamate (0.412 g) in MeOH (5 mL) was added 2N HCl in Et2O (2.1 mL). The mixture was stirred at room temperature for fifteen minutes. The mixture was stripped of solvent under reduced pressure. The residue was partitioned between dichloromethane and aqueous sodium bicarbonate, and the organic was extracted three times, washed with brine, dried with sodium sulfate, filtered, and concentrated. A silica gel column was run for purification using 5% MeOH in dichloromethane with as the solvent solution. 0.255 g of the title product were recovered. (78% yield). MS (ESI+) for C22H29F2N3O m/z 390.18 (M+H)+.

reactant | tert-butyl (1S,2R)-1-(3,5-difluorobenzyl)-3-[(6-ethyl-1-methyl-1,2,3,4-tetrahydroquinolin-4-yl)amino]-2-hydroxypropylcarbamate | 0.412 g | FC=1C=C(C[C@@H]([C@@H](CNC2CCN(C3=CC=C(C=C23)CC)C)O)NC(OC(C)(C)C)=O)C=C(C1)F | C27H37F2N3O3
reactant | HCl | 2N | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
solvent | Et2O | 2.1 mL | CCOCC | C4H10O
product | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(6-ethyl-1-methyl-1,2,3,4-tetrahydroquinolin-4-yl)amino]butan-2-ol | 78% yield | N[C@H]([C@@H](CNC1CCN(C2=CC=C(C=C12)CC)C)O)CC1=CC(=CC(=C1)F)F | C22H29F2N3O
